US04452982
1.83 g. (0.005 moles) of 9,9-dibromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are dissolved in 5 ml. of dimethyl sulfoxide. To the solution 0.5 ml. (0.0055 moles) of aniline and 1.3 ml. (0.01 moles) of N,N-dimethylaniline are added. The reaction mixture is allowed to stand for three days, whereupon it is poured onto 20 ml. of water. The crystals are filtered off, washed with a small amount of water, dried and recrystallized from acetonitrile. 0.83 g. (55.8%) of 9-anilino-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are obtained, melting at 169° to 170° C.

reactant | 9,9-dibromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.005 moles | BrC1(CCC(N2C1=NC=C(C2=O)C(=O)O)C)Br | C10H10Br2N2O3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | aniline | 0.0055 moles | NC1=CC=CC=C1 | C6H7N
reactant | N,N-dimethylaniline | 0.01 moles | CN(C1=CC=CC=C1)C | C8H11N
solvent | water | O | H2O
product | 9-anilino-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 55.8% | N(C1=CC=CC=C1)C1=CCC(N2C1=NC=C(C2=O)C(=O)O)C | C16H15N3O3
